### ISSUE TITLE
metavariables in `rw` are instantiated at the first match, even if this is disallowed by `occs`.

### ISSUE THREAD

**Issue by semorrison** [leanprover/lean4#2538]
### Prerequisites

* [X] Put an X between the brackets on this line if you have done all of the following:
    * Checked that your issue isn't already [filed](https://github.com/leanprover/lean4/issues).
    * Reduced the issue to a self-contained, reproducible test case.

### Description

When using `rw` or `kabstract` with the `occs` parameter, metavariables in the lemma that we are rewriting by (or the expression we are abstracting) are instantiated by the first match found, even if this match is disallowed by occurrences.

### Steps to Reproduce

```
variable (f : Nat → Nat) (w : ∀ n, f n = 0)

example : [f 1, f 2, f 1, f 2] = [0, 0, 0, 0] := by
  rw (config := {occs := .pos [2]}) [w]
  -- Oh no! This currently rewrites the second `f 1`, rather than the first `f 2`,
  -- because the argument of `w` has already be fixed to `1` when we visit `f 1`.
```

Note this behaviour makes it impossible to achieve some rewrites. (Of course there are usually workarounds with `conv`, or by specifying arguments, but it is more difficult if automation wants to know about all possible rewrites.)

**Expected behavior:**

```
variable (f : Nat → Nat) (w : ∀ n, f n = 0)

example : [f 1, f 2, f 1, f 2] = [0, 0, 0, 0] := by
  rw (config := {occs := .pos [2]}) [w]
  trace_state -- ⊢ [f 1, 0, f 1, f 2] = [0, 0, 0, 0]
  rw [w, w]
```

**Actual behavior:**

```
variable (f : Nat → Nat) (w : ∀ n, f n = 0)

example : [f 1, f 2, f 1, f 2] = [0, 0, 0, 0] := by
  rw (config := {occs := .pos [2]}) [w]
  trace_state -- ⊢ [f 1, f 2, 0, f 2] = [0, 0, 0, 0]
  rw [w, w]
```

### Versions

The `config := {occs := ...}` option has only just landed in Lean, so you will need to either test this on master or on nightly-2023-09-14 when it arrives or later.
